US09079911B2
(5-Benzylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone in EtOH (20 mL) and AcOH (1 mL) was continuously flowed through a 20 wt % Pd(OH)2/C cartridge at a rate of 1 mL/min for 2 h at 50° C. and 50 bar using a H-cube apparatus. Then the reaction was concentrated and neutralized with 5% Na2CO3 (aq), and extracted with CH2Cl2 (3×). Combined organics and dried (Na2SO4) to give (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone as a clear oil that was used without further purification. 1H NMR (CDCl3): 7.83-7.80 (m, 2H), 7.50 (d, J=2.5 Hz, 1H), 7.32 (d, J=8.5 Hz, 1H), 6.96 (dd, J=8.5, 2.5 Hz, 1H), 3.89 (s, 3H), 3.75-3.63 (m, 2H), 3.27 (s, 1H), 3.08 (dd, J=11.9, 8.1 Hz, 1H), 2.94 (dt, J=11.4, 5.7 Hz, 2H), 2.88-2.75 (m, 2H), 2.69 (dd, J=17.8, 14.3 Hz, 1H), 2.56 (dd, J=11.4, 3.9 Hz, 1H).

reactant | (5-Benzylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone | C(C1=CC=CC=C1)N1CC2C(C1)CN(C2)C(=O)C2=C(C=C(C=C2)OC)N2N=CC=N2 | C23H25N5O2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone | C1N(CC2C1CNC2)C(=O)C2=C(C=C(C=C2)OC)N2N=CC=N2 | C16H19N5O2
